US08071592B2
(i) cis-1,1-Dimethylethyl ({(3RS,5RS)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-[2-(7-fluoro-2-oxo-1 (2H)-quinolinyl)ethyl]-3-piperidinyl}methyl)carbamate
To cis-1,1-dimethylethyl [((3RS,5RS)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-3-piperidinyl)methyl]carbamate (350 mg; 1.0 mmol) in MeOH (2 ml) and CHCl3 (8 ml) was added (7-fluoro-2-oxo-1(2H)-quinolinyl)acetaldehyde (for a preparation see Example 2(d) (200 mg; 1.0 mmol) and the reaction was allowed to stir at room temperature under N2 for 8 hours. Na(OAc)3BH (530 mg; 2.5 mmol) was added and the reaction was allowed to stir at room temperature under nitrogen for an additional 14 hours. The solvents were removed and the crude residue was purified by chromatography on silica gel using a 0-10% MeOH/DCM gradient to provide the desired compound (415 mg; 78%) as a colorless oil.

reactant | cis-1,1-dimethylethyl [((3RS,5RS)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-3-piperidinyl)methyl]carbamate | 1.0 mmol, 350 mg | CC(C)(C)[Si](O[C@@H]1C[C@@H](CNC1)CNC(OC(C)(C)C)=O)(C)C | C17H36N2O3Si
reactant | (7-fluoro-2-oxo-1(2H)-quinolinyl)acetaldehyde | FC1=CC=C2C=CC(N(C2=C1)CC=O)=O | C11H8FNO2
reactant | Na(OAc)3BH | 2.5 mmol, 530 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH | 2 ml | CO | CH4O
solvent | CHCl3 | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | cis-1,1-Dimethylethyl ({(3RS,5RS)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-[2-(7-fluoro-2-oxo-1 (2H)-quinolinyl)ethyl]-3-piperidinyl}methyl)carbamate | 415 mg, 78% | CC(C)(C)[Si](O[C@@H]1C[C@@H](CN(C1)CCN1C(C=CC2=CC=C(C=C12)F)=O)CNC(OC(C)(C)C)=O)(C)C | C28H44FN3O4Si
